US05679696
A stirred solution of chlorosulfonic acid (90 mL) at room temperature is treated with p-anisic acid (40 g), portionwise, during 30 minutes. When the addition is complete, the mixture is stirred at 90° C. for 75 minutes, then it is cooled and poured onto ice. The white precipitate is collected and dissolved in ethyl acetate (300 mL). The organic extract is washed with brine (2×250 mL), dried over magnesium sulfate, and concentrated, to give 3-chlorosulfonyl-4-methoxybenzoic acid (34 g), in the form of a white solid m.p. 168°-170° C.

reactant | p-anisic acid | 40 g | C(C1=CC=C(C=C1)OC)(=O)O | C8H8O3
reactant | chlorosulfonic acid | 90 mL | ClS(=O)(=O)O | ClHO3S
product | 3-chlorosulfonyl-4-methoxybenzoic acid | 34 g | ClS(=O)(=O)C=1C=C(C(=O)O)C=CC1OC | C8H7ClO5S
